US05321002
By the method of Example 1, Step E, 25.6 g (0.0838 mole) of 1-(2,4,6-trichlorophenyl)-4-carboxy-5-methyl-1H-pyrazole, 114.3 g (0.961 mole) of thionyl chloride, and 12.7 g (0.132 mole) of sulfamide were reacted in 100 mL of sulfolane, yielding 18.25 g of 1-(2,4,6-trichlorophenyl)-4-cyano-5-methyl-1H-pyrazole as an oil which subsequently solidified. The NMR spectrum was consistent with the proposed structure.

reactant | 1-(2,4,6-trichlorophenyl)-4-carboxy-5-methyl-1H-pyrazole | 0.0838 mole, 25.6 g | ClC1=C(C(=CC(=C1)Cl)Cl)N1N=CC(=C1C)C(=O)O | C11H7Cl3N2O2
reactant | thionyl chloride | 0.961 mole, 114.3 g | S(=O)(Cl)Cl | Cl2OS
reactant | sulfamide | 0.132 mole, 12.7 g | S(=O)(=O)(N)N | H4N2O2S
solvent | sulfolane | 100 mL | S1(=O)(=O)CCCC1 | C4H8O2S
product | 1-(2,4,6-trichlorophenyl)-4-cyano-5-methyl-1H-pyrazole | 18.25 g | ClC1=C(C(=CC(=C1)Cl)Cl)N1N=CC(=C1C)C#N | C11H6Cl3N3
